US07825258B2
(4-Ethoxy-2,6-difluoro-phenyl)-hydroxy-acetic acid ethyl ester
To a solution of 1-ethoxy-3,5-difluoro-benzene (7.50 g, 47.42 mmol, 1.0 equiv) and N-(2-dimethylamino-ethyl)-N,N′,N′-trimethyl-ethane-1,2-diamine (8.63 g, 10.40 mL, 49.80 mmol, 1.05 equiv) in anhydrous THF (125 mL) was added n-BuLi (31.13 mL, 49.80 mmol, 1.05 equiv; 1.6 M solution in hexane) within 1 h at −100° C. A solution of glyoxylic acid ethyl ester (9.68 g, 94.85 mmol, 2.0 equiv) in toluene (19 mL) was slowly added over a time period of 45 min and stirring continued for 2 h at −100° C. The cooling bath was removed and at −30° C. a solution of 2 M HCl (105 mL) was added. The solution was concentrated by evaporation under reduced pressure and the reaction mixture extracted with ethyl acetate (3×100 mL). The combined organic phases were dried over MgSO4 and concentrated by evaporation under reduced pressure. The crude material was purified by silica column chromatography using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of heptane/ethyl acetate to give 8.2 g (66%) of the title compound. 1H NMR (300 MHz, CDCl3): δ1.24 (t, J=7.5 Hz, 3H), 1.41 (t, J=7.5 Hz, 3H), 3.47 (d, J=6.0 Hz, 1H), 4.00 (q, J=7.5 Hz, 2H), 4.28 (q, J=7.5 Hz, 2H), 5.38 (d, J=6.0 Hz, 1H), 6.41-6.47 (m, 2H).

reactant | 1-ethoxy-3,5-difluoro-benzene | 47.42 mmol, 7.50 g, 1.0 equiv | C(C)OC1=CC(=CC(=C1)F)F | C8H8F2O
reactant | N-(2-dimethylamino-ethyl)-N,N′,N′-trimethyl-ethane-1,2-diamine | 49.80 mmol, 10.40 mL, 8.63 g, 1.05 equiv | CN(CCN(CCN(C)C)C)C | C9H23N3
reactant | n-BuLi | 49.80 mmol, 1.6 M, 31.13 mL, 1.05 equiv | [Li]CCCC
reactant | glyoxylic acid ethyl ester | 94.85 mmol, 9.68 g, 2.0 equiv | C(C)OC(C=O)=O | C4H6O3
solvent | THF | 125 mL | C1CCOC1 | C4H8O
solvent | toluene | 19 mL | C1(=CC=CC=C1)C | C7H8
product | (4-Ethoxy-2,6-difluoro-phenyl)-hydroxy-acetic acid ethyl ester | 8.2 g, 66% | C(C)OC(C(O)C1=C(C=C(C=C1F)OCC)F)=O | C12H14F2O4
